US06194414B1
4-Ethoxy-2-methylbenzaldehyde
Using an analogous formylation procedure to that employed by Campaigne et al 3-ethoxytoluene (10.18 g, 75 mmol) was added dropwise to a mixture of phosphorous oxychloride (6.88 mL, 75 mmol) and DMF (21 mL, 0.272 mol) at 0° C. and the resultant mixture was heated to 80-90° C. for 4 hrs before being poured onto crushed ice. The solution was taken to pH 7 with saturated sodium acetate, extracted with dichloromethane and upon drying and solvent removal a clear colourless oil was obtained. Column chromatography (silica, ethyl acetate/hexane, 1:9, Rf 0.33) gave the title compound as a clear colourless oil (1.13 g, 20.40% based on reacted material). 1H n.m.r. [400 MHZ, CDCl3] δ 6 10.09, s, 1H, CHO; 7.73, d, J 8.6 Hz, 1H, H6; 6.81, dd, J 8.5, 1, 1H, H5, 6.72, d, J 1 Hz, 1H, H3; 4.09, q, J 7 Hz, 2H, OCH2CH3; 2.63, s, 3H, ArCH3; 1.43, t, J 6.95 Hz, 3H, CH2CH3. 13C n.m.r. [100 MHZ, CDCl3] d 190.95, CHO; 162.88, C4; 143.02, C2; 134.59, C6; 127.53, C1; 117.23, C3; 111.67, C5; 63.54, OCH2CH3; 19.70, ArCH3; 14.47, OCH2CH3. Mass spectrum (f.a.b.) calculated 164.083724, found 164.084.

reactant | 3-ethoxytoluene | 75 mmol, 10.18 g | C(C)OC=1C=C(C=CC1)C | C9H12O
reactant | phosphorous oxychloride | 75 mmol, 6.88 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 0.272 mol, 21 mL | CN(C)C=O | C3H7NO
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-Ethoxy-2-methylbenzaldehyde | 1.13 g, 20.40% | C(C)OC1=CC(=C(C=O)C=C1)C | C10H12O2
